US06677473B1
B. 3-N-Benzyl-4-(1H-tetrazol-5-yl)phenol
A 20 mL round bottomed flask equipped with a Teflon coated magnetic stirring bar, a rubber septum and a reflux condenser was charged with acetone (25 mL), 4-(2H-tetrazol-5-yl)phenol (50 mg, 0.31 mmol) and K2CO3 (213 mg, 1.54 mmol). The reaction mixture was treated with benzylbromide (37 μL, 0.31 mmol) and heated at 50° C. for 18 h. The reaction mixture was cooled to ambient temperature and filtered to remove the K2CO3 and the filtrate was concentrated to dryness. The resulting residue was triturated with 3 M aqueous NaOH and extracted with ethyl acetate. The aqueous phase was separated and treated with HCl (conc.). The precipitate was collected and subjected to flash chromatography (SiO2, 30% ethyl acetate/hexane) to afford the title product as a white solid (57 mg, 74%). This procedure was repeated on a 3 g scale in 50% yield.

reactant | 4-(2H-tetrazol-5-yl)phenol | 0.31 mmol, 50 mg | N=1NN=NC1C1=CC=C(C=C1)O | C7H6N4O
reactant | K2CO3 | 1.54 mmol, 213 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | benzylbromide | 0.31 mmol, 37 μL | C(C1=CC=CC=C1)Br | C7H7Br
solvent | acetone | 25 mL | CC(=O)C | C3H6O
product | 3-N-Benzyl-4-(1H-tetrazol-5-yl)phenol | 57 mg, 74% | C(C1=CC=CC=C1)N1NNC(=N1)C1=CC=C(C=C1)O | C14H14N4O
